US04120690
Preparation of 2-(3-methylureido)-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole
A solution of 10 g (0.033 mole) of 2-amino-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole, and 2.3 g (0.04 mole) of methyl isocyanate in 50 ml of pyridine was heated at 50° for 3 hours. The reaction solution was mixed with 400 ml of water and allowed to stand overnight in the refrigerator. On the following morning, the crystalline solid was collected and dried in the oven. There was obtained 10 g of the desired product, m.p. 200°14 203°. N.M.R. (dimethyl-d6 sulfoxide) ∂ 2.7-2.8 (CH3, doublet), 6.8 (hetero-aromatic), 7.3-8.1 (aromatic), 10.4 (HNC=O).

reactant | 2-amino-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole | 0.033 mole, 10 g | NC=1SC=C(N1)CC(NC1=CC(=CC=C1)C(F)(F)F)=O | C12H10F3N3OS
reactant | methyl isocyanate | 0.04 mole, 2.3 g | CN=C=O | C2H3NO
reactant | water | 400 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-(3-methylureido)-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole | 10 g | CNC(NC=1SC=C(N1)CC(NC1=CC(=CC=C1)C(F)(F)F)=O)=O | C14H13F3N4O2S
